US06613789B2
Step 1: Preparation of N-[4-(methylsulfonyl)phenyl]-3-pyridinecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline hydrochloride (6 g, 28.8 mmol) in toluene (150 ml) at 0° C., trimethylaluminum (2M solution in toluene, 21.6 ml, 43.2 mmol) was added over 15 minutes. The reaction mixture was warmed to room temperature and stirred for 2.5 hours. A solution of 3-cyanopyridine (6 g, 57.6 mmol) in toluene (150 ml) was added over 10 minutes and the reaction mixture was heated to 90-95° C. After 24 hours, the reaction mixture was cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue was washed with a mixture of methylene chloride/methanol and later methanol. The combined filtrates were concentrated and the resulting yellowish solid was stirred with ethyl acetate (1000 ml) and filtered. The pale yellow amidine (4.5 g, 34%) was used in the next reaction without further purification: mp (DSC) 265° C. Anal Calc'd. for C13H14N3SO2Cl.0.5 H2O: C, 48.67, H, 4.71, N, 13.10. Found: C, 48.34, H, 4.26, N, 12.77.

reactant | 4-(methylsulfonyl)aniline hydrochloride | 28.8 mmol, 6 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | trimethylaluminum | 43.2 mmol, 2M, 21.6 ml | C[Al](C)C
reactant | 3-cyanopyridine | 57.6 mmol, 6 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | H2O | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(methylsulfonyl)phenyl]-3-pyridinecarboximidamide | CS(=O)(=O)C1=CC=C(C=C1)NC(=N)C=1C=NC=CC1 | C13H13N3O2S
